US05138071
1.44 g of (2S,5R)-2,5-dihydro-2-isopropyl-3,6-dimethoxy-5-benzyl-5-methylpyrazine in 30 ml of diethyl ether were treated at room temperature with 25 ml of 0.2N HCl in diethyl ether. After 2 h, the mixture was evaporated in vacuo. Distillation of the residue gave 0.94 g (69%) of crude (2S,5R)-2,5-dihydro-2-isopropyl-6-methoxy-5-benzyl-methyl-pyrazin-3-one, boiling point 170° C./0.005 Torr.

reactant | (2S,5R)-2,5-dihydro-2-isopropyl-3,6-dimethoxy-5-benzyl-5-methylpyrazine | 1.44 g | C(C)(C)[C@@H]1N=C([C@@](N=C1OC)(C)CC1=CC=CC=C1)OC | C17H24N2O2
reactant | HCl | 0.2N, 25 ml | Cl | ClH
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (2S,5R)-2,5-dihydro-2-isopropyl-6-methoxy-5-benzyl-methyl-pyrazin-3-one | 0.94 g, 69% | C(C)(C)[C@@]1(N=C([C@H](NC1=O)CC1=CC=CC=C1)OC)C | C16H22N2O2
